US04992574
2.57 g of 5,6,8,9-tetrahydro-6,6,8,8-tetramethyl-7H-benzocycloheptene-7-one are dissolved in 50 ml of absolute diethyl ether and treated cautiously at 0° with 460 mg of lithium aluminum hydride. The cooling bath is removed and the mixture is stirred at room temperature for an additional 2 hours. Then, 1.2 g of sodium hydroxide, dissolved in a small amount of water, are added portionwise, whereupon the reaction mixture is stirred until a filterable precipitate has formed. After filtration and evaporation of the filtrate, there is obtained 6,7,8,9-tetrahydro-6,6,8,8-tetramethyl-5H -benzocycloheptene-7-ol as a crude product which melts at 66°-68° after recrystallization from petroleum ether (low-boiling).

reactant | 5,6,8,9-tetrahydro-6,6,8,8-tetramethyl-7H-benzocycloheptene-7-one | 2.57 g | CC1(CC2=C(CC(C1=O)(C)C)C=CC=C2)C | C15H20O
reactant | lithium aluminum hydride | 460 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
product | 6,7,8,9-tetrahydro-6,6,8,8-tetramethyl-5H -benzocycloheptene-7-ol | CC1(CC2=C(CC(C1O)(C)C)C=CC=C2)C | C15H22O
